US05114493
6-(Carbethoxymethyl)-3-phenyl-2-cyclohexen-1-one (2.11 g) was added to a mixture of 0.2 g of 10% palladium on carbon in 30 ml of ethyl acetate. The reaction mixture was hydrogenated under a hydrogen atmosphere (maximum pressure 45 psi) for 41 hours. The mixture was filtered through celite, and the solvent was removed under reduced pressure. The recovered crude oil product was purified by chromatography on silica gel eluted with 5% ethyl acetate in hexane to provide 1.5 g (71%) of 6-(carbethoxymethyl)-3-phenylcyclohexanone.

reactant | 6-(Carbethoxymethyl)-3-phenyl-2-cyclohexen-1-one | 2.11 g | C(=O)(OCC)CC1CCC(=CC1=O)C1=CC=CC=C1 | C16H18O3
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 6-(carbethoxymethyl)-3-phenylcyclohexanone | 1.5 g, 71% | C(=O)(OCC)CC1CCC(CC1=O)C1=CC=CC=C1 | C16H20O3
